US07626042B2
(2) 5-Chloro-2-(morpholinocarbonyl)oxy-N-[2,5-bis(trifluoromethyl)phenyl]benzamide (Compound No. 91)
Using 5-chloro-2-hydroxy-N-[2,5-bis(trifluoromethyl)phenyl]benzamide and morpholine-4-carbonyl chloride as the raw materials, the same operation as the Example 71 gave the title compound.

reactant | 5-chloro-2-hydroxy-N-[2,5-bis(trifluoromethyl)phenyl]benzamide | ClC=1C=CC(=C(C(=O)NC2=C(C=CC(=C2)C(F)(F)F)C(F)(F)F)C1)O | C15H8ClF6NO2
reactant | morpholine-4-carbonyl chloride | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
product | 5-Chloro-2-(morpholinocarbonyl)oxy-N-[2,5-bis(trifluoromethyl)phenyl]benzamide | Yield: 92.1% | ClC=1C=CC(=C(C(=O)NC2=C(C=CC(=C2)C(F)(F)F)C(F)(F)F)C1)OC(=O)N1CCOCC1 | C20H15ClF6N2O4
